US06008230
To a solution of 4-hydroxy-8-nitroquinoline (200 mg) and allyl bromide (140 mg) in dimethylformamide (2 ml) was added potassium carbonate (290 mg) at 0° C., and the mixture was stirred for 6 hours at 50° C. The mixture was diluted with dichloromethane and washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved into hot ethyl acetate (2 ml), and the solution was stirred at ambient temperature. The resulting precipitate was collected by filtration to give 4-allyloxy-8-nitroquinoline (120 mg).

reactant | 4-hydroxy-8-nitroquinoline | 200 mg | OC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | allyl bromide | 140 mg | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 290 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-allyloxy-8-nitroquinoline | 120 mg | C(C=C)OC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C12H10N2O3
